US07968550B2
tert-Butyl (1-{4-[(5-bromofuran-2-carbonyl)amino]phenyl}pyrrolid in-3-yl)methylcarbamate
5-Bromofuran-2-carboxylic acid was reacted with tert-butyl [1-(4-aminophenyl)pyrrolidin-3-yl]methylcarbamate by method E. This resulted in the product with the molecular weight of 464.36 (C21H26BrN3O4); MS (ESI): 464 (M+H+).

reactant | 5-Bromofuran-2-carboxylic acid | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | tert-butyl [1-(4-aminophenyl)pyrrolidin-3-yl]methylcarbamate | NC1=CC=C(C=C1)N1CC(CC1)CNC(OC(C)(C)C)=O | C16H25N3O2
product | tert-Butyl (1-{4-[(5-bromofuran-2-carbonyl)amino]phenyl}pyrrolid in-3-yl)methylcarbamate | BrC1=CC=C(O1)C(=O)NC1=CC=C(C=C1)N1CC(CC1)CNC(OC(C)(C)C)=O | C21H26BrN3O4
